US08076514B2
[(1R,2S)-3-(2-tert-Butylcarbamoyl-5-chloro-phenyl)-1-(2-fluoro-benzyl)-2-methoxy-propyl]-carbamic acid tert-butyl ester
To a solution of [(1R,2S)-3-(2-tert-Butylcarbamoyl-5-chloro-phenyl)-1-(2-fluoro-benzyl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester (0.40 g, 0.81 mmol) in 5 mL of THF is added a 60% dispersion of sodium hydride in mineral oil (64 mg, 1.6 mmol) and the reaction is allowed to stir for 20 minutes at room temperature. Methyl iodide (0.05 mL, 0.81 mmol) is added and stirring is continued for an additional hour. The reaction is quenched by addition of water and the product is extracted into dichloromethane. The combined organic layers are dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification of the resultant crude residue by silica gel flash column chromatography gives the title compound.

reactant | [(1R,2S)-3-(2-tert-Butylcarbamoyl-5-chloro-phenyl)-1-(2-fluoro-benzyl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | 0.81 mmol, 0.40 g | C(C)(C)(C)OC(N[C@@H]([C@H](CC1=C(C=CC(=C1)Cl)C(NC(C)(C)C)=O)O)CC1=C(C=CC=C1)F)=O | C26H34ClFN2O4
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl iodide | 0.81 mmol, 0.05 mL | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [(1R,2S)-3-(2-tert-Butylcarbamoyl-5-chloro-phenyl)-1-(2-fluoro-benzyl)-2-methoxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CC1=C(C=CC(=C1)Cl)C(NC(C)(C)C)=O)OC)CC1=C(C=CC=C1)F)=O | C27H36ClFN2O4
